US05250548
Ethyl 2-chloropyridine-3-carboxylate (8.00 g) was heated at 100° C. for 5 hours with 16 mL of n-butylamine and 34 mL of ethanol in an autoclave. The product was chromatographed on silica gel to give 7.69 g of ethyl 2-butylaminopyridine-3-carboxylate. This compound was reacted with N-triphenylmethyl-5-[2-(4'-bromomethyl-biphenyl)]tetrazole, prepared as described by P. E. Aldrich, et al., in European Patent Application Number 291969, using the procedure described in Example 87 to give ethyl 2-{N-butyl-N-[(2'-[N-triphenylmethyl-1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}pyridine-3-carboxylate in 61% yield. m.p. 90°-94° C. Treatment of 1.50 g of this compound with 14 mL of methylene chloride and 21 mL of 88% formic acid for 1 hour at ambient temperature gave 690 mg of the title compound. m.p. 120°-121° C. 1H NMR (CDCl3, 300 MHz) d 0.85 (t, J=7 Hz, 3H), 1.22 (m, 2H), 1.36 (t, J=7 Hz, 3H), 1.55 (m, 2H), 3.29 (t, J=7 Hz, 2H), 4.31 (q, J=7 Hz, 2H), 4.60 (s, 2H), 6.69 (dd, J=4 Hz, 8 Hz, 1H), 7.11 (d, J=8 Hz, 2H), 7.25 (d, J=8 Hz, 2H), 7.45 (dd, J=8 Hz, 2 Hz, 1H), 7.50-7.70 (m, 4H), 7.92 (dd, J=8 Hz, 1 Hz, 1H), 8.05 (dd, J=4 Hz, 2 Hz, 1H), 8.17 (dd, J=8 Hz, 1 Hz, 1H).

reactant | Ethyl 2-chloropyridine-3-carboxylate | 8.00 g | ClC1=NC=CC=C1C(=O)OCC | C8H8ClNO2
reactant | n-butylamine | 16 mL | C(CCC)N | C4H11N
solvent | ethanol | 34 mL | C(C)O | C2H6O
product | ethyl 2-butylaminopyridine-3-carboxylate | 7.69 g | C(CCC)NC1=NC=CC=C1C(=O)OCC | C12H18N2O2
